US08669234B2
{1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester (57 mg, 0.179 mmol), 1,4-dibromobenzene (211 mg, 0.895 mmol), Pd(PPh3)4 (10 mg, 0.00895 mmol), CuI (3 mg, 0.0179 mmol) and triethylamine (0.249 mL, 1.79 mmol) were suspended in DMF (2 mL) and the mixture was degassed for 10 min with nitrogen. The reaction mixture was stirred at 80° C. for 70 min then diluted with 20 mL ethyl acetate and washed with saturated aqueous sodium bicarbonate and brine. The organic phase was dried with magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (0% to 5% MeOH/DCM) to afford (1-{2-[5-(4-Bromo-phenyl ethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (43 mg, 51%).

reactant | {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 0.179 mmol, 57 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#C)=O | C16H22N4O3
reactant | 1,4-dibromobenzene | 0.895 mmol, 211 mg | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | triethylamine | 1.79 mmol, 0.249 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.00895 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.0179 mmol, 3 mg | [Cu]I
product | (1-{2-[5-(4-Bromo-phenyl ethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 43 mg, 51% | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#CC1=CC=C(C=C1)Br)=O | C22H25BrN4O3
